US05554607
3-(2.6-Dimethylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 8.2 g of 2,6-dimethylphenyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. Purification was achieved through crystallization from ethanol. Title compound (2.3 g) was obtained as a white solid (2.3 g). m.p. 128°-131° C. Anal. Calcd. for. C13H16N2O S: C, 62.87; H, 6.49; N, 11.28. Found: C, 62.83; H, 6.50; N, 11.25. Mass spectrum (EI, M.+) m/z 248.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 2,6-dimethylphenyl-isothiocyanate | 8.2 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(2.6-Dimethylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | 2.3 g | CC1=C(C(=CC=C1)C)N1C(N(CC1=O)CC)=S | C13H16N2OS
